US04243609
A solution of 7.20 g of 3-fluoro-4-(hexadecylamino)-benzoic acid in 25 ml of hexamethylphosphoramide is added to a stirred mixture of 0.800 g of sodium hydride (57% in mineral oil) and 25 ml of hexamethylphosphoramide. The solution which forms after one hour is treated with 11.0 g of methyl iodide and is then stirred at 25° C. for 18 hours. Dilution with water followed by filtration affords a white solid which is crystallized from ethanol to yield methyl 3-fluoro-4-(hexadecylamino)-benzoate as a white solid.

reactant | 3-fluoro-4-(hexadecylamino)-benzoic acid | 7.20 g | FC=1C=C(C(=O)O)C=CC1NCCCCCCCCCCCCCCCC | C23H38FNO2
reactant | sodium hydride | 0.800 g | [H-].[Na+]
reactant | methyl iodide | 11.0 g | CI | CH3I
solvent | hexamethylphosphoramide | 25 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | hexamethylphosphoramide | 25 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | methyl 3-fluoro-4-(hexadecylamino)-benzoate | FC=1C=C(C(=O)OC)C=CC1NCCCCCCCCCCCCCCCC | C24H40FNO2
